US05073629
One hundred seventy milligrams of 4,4-diphenylnon-8-en-3-ol was dissolved in acetone (10 ml), and then treated with 2.7M chromic acid solution (0.04 ml). After 10 min, the excess oxidant was destroyed with isopropanol, and the mixture was diluted with ether (20 ml). Filtration through a pad of celite and concentration yielded 133 mg of 4,4-diphenylnon-8-en-3-one, as an amorphous white solid.

reactant | 4,4-diphenylnon-8-en-3-ol | One hundred seventy milligrams | C1(=CC=CC=C1)C(C(CC)O)(CCCC=C)C1=CC=CC=C1 | C21H26O
reactant | chromic acid | 2.7M, 0.04 ml | [Cr](=O)(=O)(O)O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 4,4-diphenylnon-8-en-3-one | 133 mg | C1(=CC=CC=C1)C(C(CC)=O)(CCCC=C)C1=CC=CC=C1 | C21H24O
